US06921762B2
Step C: 5-methylthio-7-(2-chloro-4-pyridyl)-8-(3-(trifluoromethyl)phenyl)-1,2,4-triazolo[4,3-c]pyrimidine
4-Chloro-6-(2-chloro-4-pyridyl)-2-methylthio-5-(3-(trifluoromethyl)-phenyl)pyrimidine (0.873 g, 2.1 mmol) and 16.5 ml of NH2NH2—H2O in 90 ml EtOH in a 150-ml r.b.flask with a stir bar was stirred at 70° C. The reaction was cooled to room temperature. The solvents were evaporated in vacuo. The residue was dried by addition and removal of toluene in vacuo and further dried under vacuum at 50° C. overnight. The resulting light yellow solid was mixed with 40 ml of DCM, 20 ml of CH(OCH3)3, and 10 ml of TFA in a 150-ml r.b.flask with a stir bar. The reaction solution was stirred at RT overnight. The acidic reaction solution was neutralized to pH 8 by sat'd NaHCO3. The DCM layer was washed with brine (3×20 ml) and dried over Na2SO4. After removal of the DCM in vacuo, crude product (MS m/z 421.8 (M+H)+) was obtained as a dark brown oil, which was used directly in the next step.

reactant | 4-Chloro-6-(2-chloro-4-pyridyl)-2-methylthio-5-(3-(trifluoromethyl)-phenyl)pyrimidine | 2.1 mmol, 0.873 g | ClC1=NC(=NC(=C1C1=CC(=CC=C1)C(F)(F)F)C1=CC(=NC=C1)Cl)SC | C17H10Cl2F3N3S
reactant | NH2NH2—H2O | 16.5 ml | NN.O
reactant | EtOH | 90 ml | CCO | C2H6O
product | 5-methylthio-7-(2-chloro-4-pyridyl)-8-(3-(trifluoromethyl)phenyl)-1,2,4-triazolo[4,3-c]pyrimidine | CSC1=NC(=C(C=2N1C=NN2)C2=CC(=CC=C2)C(F)(F)F)C2=CC(=NC=C2)Cl | C18H11ClF3N5S
